US07253158B2
b) rac-5-Chloro-thiophene-2-sulfonic acid (3-fluoro-4-methoxy-benzyl)-(2-oxo-azepan-3-yl)-amide
rac-3-(3-Fluoro-4-methoxy-benzylamino)-azepan-2-one (213 mg, 0.80 mmol) was dissolved in CH2Cl2 (7.7 ml) and treated with DMAP (30 mg, 0.24 mmol), Hünig's base (0.30 ml, 1.76 mmol) and ⅛ of the cooled (0° C.) reaction mixture was reacted with 5-chloro-thiophene-2-sulfonyl chloride (48 mg, 0.22 mmol) and shaken overnight in a parallel reaction block. Solvent was removed under reduced pressure and the residue dissolved in aqueous acetonitrile solution and purified using high throughput preparative RP(C18) chromatography: lyophilisate 13 mg;

reactant | rac-3-(3-Fluoro-4-methoxy-benzylamino)-azepan-2-one | 0.80 mmol, 213 mg | FC=1C=C(CNC2C(NCCCC2)=O)C=CC1OC | C14H19FN2O2
reactant | Hünig's base | 1.76 mmol, 0.30 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-thiophene-2-sulfonyl chloride | 0.22 mmol, 48 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | CH2Cl2 | 7.7 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.24 mmol, 30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | rac-5-Chloro-thiophene-2-sulfonic acid (3-fluoro-4-methoxy-benzyl)-(2-oxo-azepan-3-yl)-amide | FC=1C=C(CN(S(=O)(=O)C=2SC(=CC2)Cl)C2C(NCCCC2)=O)C=CC1OC | C18H20ClFN2O4S2
